US07872005B2
2-Methyl-4-chloro-6-morpholino-pyridine (50 mmol) is dissolved in tetrahydrofuran (200 mL). The reaction is chilled to −78° C. under an inert atmosphere. A solution of n-butyllithium in hexanes (24 mL, 2.5M, 60 mmol) is added, and the reaction mixture is stirred for thirty minutes. A solution of oxirane dissolved in tetrahydrofuran (40 mL, 41.5M, 60 mmol) is added, and the reaction is allowed to warm to room temperature while stirring overnight. The solvent is removed under reduced pressure, and the crude material is dissolved in methylene chloride (200 mL) and washed with saturated ammonium chloride (2×50 mL), dried with sodium sulfate, and evaporated to dryness. The compound is purified by column chromatography to give 3-(4-chloro-6-morpholin-4-yl-pyrid-2-yl)-propan-1-ol.

reactant | 2-Methyl-4-chloro-6-morpholino-pyridine | 50 mmol | CC1=NC(=CC(=C1)Cl)N1CCOCC1 | C10H13ClN2O
reactant | n-butyllithium | C(CCC)[Li]
reactant | oxirane | O1CC1 | C2H4O
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 60 mmol, 41.5M, 40 mL | O1CCCC1 | C4H8O
product | 3-(4-chloro-6-morpholin-4-yl-pyrid-2-yl)-propan-1-ol | ClC1=CC(=NC(=C1)N1CCOCC1)CCCO | C12H17ClN2O2
